US07807673B2
4-[2-(3-Aminophenyl)-6-(methyloxy)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[2-(dimethylamino)ethyl]oxy}phenyl)-2-pyrimidinamine (100 mg, 0.21 mmol), 1-phenylcyclopropanecarboxylic acid (41 mg, 0.25 mmol), and diisopropylethylamine (0.10 mL, 1.0 mmol) were combined in DMF (1 mL) followed by the addition of HATU [O-(7-azabenzotriazole-1 yloxy)tripyrrolidinophosphonium hexafluorophosphate] (78 mg, 0.21 mmol). The mixture was stirred for 2 h at rt after which time additional HATU (80 mg, 0.21 mmol), 1-phenylcyclopropanecarboxylic acid (40 mg, 0.25 mmol), and diisopropylethylamine (0.10 mL, 1.0 mmol) were added. The mixture was stirred for 16 h after which time the mixture was poured into water, extracted with DCM, and the organic phase concentrated and purified by silica get chromatography to afford the title compound as a yellow solid (55 mg, 41%). 1H NMR (400 MHz, DMSO-d6) δ 9.53 (s, 1H), 9.24 (s, 1H), 8.53 (d, J=2.1 Hz, 1H), 8.43 (d, J=10.4 Hz, 1H), 8.20 (d, J=5.2 Hz, 1H), 7.85 (br s, 1H), 7.66 (d, J=8.3 Hz, 1H), 7.52 (br s, 1H), 7.39-7.31 (m, 5H), 7.28-7.20 (m, 4H), 7.13 (t, J=8.1 Hz, 1H), 6.51 (dd, J=7.9, 2.3 Hz, 1H), 6.43 (d, J=5.2 Hz, 1H), 3.97 (t, J=6.5 Hz, 2H), 3.86 (s, 3H), 2.65-2.60 (m, 2H), 2.20 (s, 6H), 1.42 (m, 2H), 1.09 (m, 2H). ES-LC/MS m/z=640 [M+H]+.

reactant | 4-[2-(3-Aminophenyl)-6-(methyloxy)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[2-(dimethylamino)ethyl]oxy}phenyl)-2-pyrimidinamine | 0.21 mmol, 100 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)OC)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)OCCN(C)C | C28H29N7O2
reactant | 1-phenylcyclopropanecarboxylic acid | 0.25 mmol, 41 mg | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | diisopropylethylamine | 1.0 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.21 mmol, 78 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HATU | 0.21 mmol, 80 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-phenylcyclopropanecarboxylic acid | 0.25 mmol, 40 mg | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | diisopropylethylamine | 1.0 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{3-[3-{2-[(3-{[2-(Dimethylamino)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}-6-(methyloxy)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-1-phenylcyclopropanecarboxamide | 55 mg, 41% | CN(CCOC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)OC)C=2C=C(C=CC2)NC(=O)C2(CC2)C2=CC=CC=C2)C | C38H37N7O3
